US08895745B2
Step a) Imidazo[1,2-a]pyridine-7-carboxylic acid methoxy-methyl-amide
To a solution of Imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (0.67 g, 3.83 mmol) and dimethylhydroxylamine (0.93 g, 9.57 mmol) in CH2Cl2 (40 ml) at 0° C. was added 2M trimethylaluminium solution in hexane (3.8 ml, 9.57 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 1 h, before being cooled back to 0° C. and quenched with ice. The reaction was filtered and liquid fraction partitioned between CH2Cl2/H2O. The organic layer was separated, dried (MgSO4), filtered and the solvent removed in vacuo to afford the crude product. The residue was purified by silica column chromatography (0-50% MeOH in Et2O) to afford the product (187 mg). MS: [M+H]+=206.

reactant | Imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 3.83 mmol, 0.67 g | COC(=O)C1=CC=2N(C=C1)C=CN2 | C9H8N2O2
reactant | dimethylhydroxylamine | 9.57 mmol, 0.93 g | CN(O)C | C2H7NO
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | hexane | 9.57 mmol, 3.8 ml | CCCCCC | C6H14
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | Imidazo[1,2-a]pyridine-7-carboxylic acid methoxy-methyl-amide | 187 mg | CON(C(=O)C1=CC=2N(C=C1)C=CN2)C | C10H11N3O2
